US07157092B1
1. Nα-Terbutyloxycarbonyl-DL-homoserine
2 g of homoserine (16.78 mmol) were dissolved in 20 ml of water and to the solution 16.78 ml of 1 M NaOH and 3.006 g of cesium carbonate (9.23 mmol) were added. After stirring for 5 minutes, the solution was cooled in an ice/water bath. 60 ml of dioxane and terbutyl pyrocarbonate were then added. The reaction mixture was kept under stirring in an ice-cold water bath for 1 hour and thereafter at room temperature for 5 hours. The solvent was subsequently removed under vacuum. The dry residue was directly used in the next step.

reactant | homoserine | 16.78 mmol, 2 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | cesium carbonate | 9.23 mmol, 3.006 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 60 ml | O1CCOCC1 | C4H8O2
reactant | terbutyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)[O-]
solvent | water | 20 ml | O | H2O
solvent | NaOH | 1 M, 16.78 ml | [OH-].[Na+]
product | Nα-Terbutyloxycarbonyl-DL-homoserine | C(C)(C)(C)OC(=O)NC(CCO)C(=O)O | C9H17NO5
